US04748240
3-[4-[4-[3-(Trifluoromethyl)phenyl]-1-piperazinyl]butyl]-3-azabicyclo[3.2.1]octane-2,4-dione
1,3-Cyclopentane dicarboxylic anhydride (2.2 g., 15 mmole) and 1-(4-aminobutyl)-4-[3-(trifluoromethyl)phenyl]piperazine (4.5 g., 15 mmole) were combined in 300 ml. of methylene chloride and stirred for 30 minutes at room temperature. The solvent was replaced with 200 ml. of xylene and the mixture was refluxed for 48 hours with water removal via a Dean-Stark trap. The solvent was removed in vacuum and the residue filtered through 75 g. of silica gel with 2% ethanol/chloroform as eluent. The product was concentrated in vacuum and crystallized from 50 ml. of isopropanol with the addition of 5 ml. of 4N isopropanolic HCl. A second recrystallization from ethanol gave 2.7 g. of the title compound as the hydrochloride, quarter hydrate; m.p. 208°-209° C.

reactant | 1,3-Cyclopentane dicarboxylic anhydride | 15 mmole, 2.2 g | C12CC(CC1)C(=O)OC2=O | C7H8O3
reactant | 1-(4-aminobutyl)-4-[3-(trifluoromethyl)phenyl]piperazine | 15 mmole, 4.5 g | NCCCCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C15H22F3N3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 3-[4-[4-[3-(Trifluoromethyl)phenyl]-1-piperazinyl]butyl]-3-azabicyclo[3.2.1]octane-2,4-dione | FC(C=1C=C(C=CC1)N1CCN(CC1)CCCCN1C(C2CCC(C1=O)C2)=O)(F)F | C22H28F3N3O2
